US05885999
Tin (II) chloride (1.79 g, 9.45 mmol) was added to a solution of (S)-1-[2-benzylamino-3-(3,4-dichlorobenzyloxy)propionyl]-4-(2-nitrophenyl)piperazine (1.03 g, 1.89 mmol) in ethanol (15 mL) and the mixture was stirred at 70° C. for 1 h. The solvent was evaporated under reduced pressure and the residue was diluted with ethyl acetate and washed with aqueous sodium hydroxide (2M, 3 x). The organic layer was dried (MgSO4) and the solvent was evaporated under reduced pressure. The residue was purified by flash column chromatography on silica gel, eluting with CH2Cl2 /MeOH/NH3 (Aq.) (99:1:0.1) to give (S)-1-[2-benzylamino-3-(3,4-dichlorobenzyloxy)propionyl]-4-(2-aminophenyl)piperazine was a yellow oil (678 mg, 70%). A sample (70 mg) was dissolved in methanolic hydrogen chloride and the solvent was evaporated under reduced pressure. The residue was dissolved in acetonitrile/water (1:1) and freeze-dried to give the title compound as a colorless solid (70 mg); Found: C, 54.06; H, 5.42; N, 9.20. C27H30Cl2N4O2.2HCl.0.5H2O requires: C, 54.47; H, 5.59; N, 9.41%. m/e (ES+) 513 (MH+).

reactant | Tin (II) chloride | 9.45 mmol, 1.79 g | [Sn](Cl)Cl
reactant | (S)-1-[2-benzylamino-3-(3,4-dichlorobenzyloxy)propionyl]-4-(2-nitrophenyl)piperazine | 1.89 mmol, 1.03 g | C(C1=CC=CC=C1)N[C@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)[N+](=O)[O-])COCC1=CC(=C(C=C1)Cl)Cl | C27H28Cl2N4O4
solvent | ethanol | 15 mL | C(C)O | C2H6O
product | (S)-1-[2-benzylamino-3-(3,4-dichlorobenzyloxy)propionyl]-4-(2-aminophenyl)piperazine | C(C1=CC=CC=C1)N[C@H](C(=O)N1CCN(CC1)C1=C(C=CC=C1)N)COCC1=CC(=C(C=C1)Cl)Cl | C27H30Cl2N4O2
